US06858638B2
2-Methylsulfonyl-N-[3-(3-trimethylsilanylethynylphenyl)-1H-indazol-5-yl] benzenesulfonamide can be obtained in the following way: 0.28 g of trimethylsilylacetylene, 0.06 g of copper iodide, 0.03 g of triphenylphosphine, 0.11 g of tetrakis(triphenylphosphine)palladium(0) and 0.29 g of triethylamine are added successively to a solution, under argon, of 0.73 g of N-[3-(3-bromophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide in 45 ml of acetonitrile. The reaction mixture is refluxed for 16 hours. After cooling to a temperature in the region of 20° C., 100 ml of water are added to the reaction mixture, which is allowed to settle out. The aqueous phase is extracted with 100 ml of ethyl acetate. The organic extracts are pooled, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography on a silica column (particle size 40-63 μm), eluting with pure dichloromethane. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is repurified by HPLC chromatography/MS, on a C18 grafted silica column of the X Terra™ type (particle size 5 μm; length×diameter=100×30 mm), eluting with an acetonitrile/water (65/35 by volume) mixture at a flow rate of 20 ml/min. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is taken up in 20 ml of ethyl acetate and recrystallized in the presence of 3S black and magnesium sulfate. The crystals are filtered off through sintered glass, washed, partially dried and then dried. 0.05 g of 2-methylsulfonyl-N-[3-(3-trimethylsilanylethynylphenyl)-1H-indazol-5-yl]-benzenesulfonamide is thus obtained in the form of a white crystalline solid melting at 110° C. (analysis LC/MS Tr: 4.25 minutes; [M+.]=523).

reactant | trimethylsilylacetylene | 0.28 g | C[Si](C)(C)C#C | C5H10Si
reactant | triphenylphosphine | 0.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.29 g | C(C)N(CC)CC | C6H15N
reactant | N-[3-(3-bromophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 0.73 g | BrC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H16BrN3O4S2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
catalyst | copper iodide | 0.06 g | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 ml | O | H2O
product | 2-methylsulfonyl-N-[3-(3-trimethylsilanylethynylphenyl)-1H-indazol-5-yl]-benzenesulfonamide | 0.05 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)C#C[Si](C)(C)C | C25H25N3O4S2Si
